US06441213B1
One mole equivalent of maleic anhydride and one mole equivalent of 6-amino hexanol are dissolved in anhydrous acetic acid and the solution is heated under reflux for eight hours. The acetic acid is distilled off in a rotary evaporator. The residue is dissolved in diethyl ether and washed once with 1 N NaOH, and twice with water. After drying over MgSO4 and evaporating the diethyl ether, the residue is crystallized from isopropyl ether to produce N-(6-hydroxyhexyl) maleimide.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 6-amino hexanol | NCCCCCCO | C6H15NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(6-hydroxyhexyl) maleimide | OCCCCCCN1C(C=CC1=O)=O | C10H15NO3
